US07648983B2
(S)-1-Benzoyl-3-[1-(5-bromo-2,4-difluoro-phenyl)-3-hydroxy-1-methyl-propyl]-thiourea
To a solution of (S)-3-amino-3-(5-bromo-2,4-difluoro-phenyl)-butan-1-ol (9.5 g, 34 mmoles, 1 equiv) in THF (50 mL) is added bis(trimethylsilyl)trifluoroacetamide (8.7 g, 34 mmol, 1 equiv). After 2 h, benzoyl isothiocyanate (5.5 g, 34 mmoles, 1 equiv) is added dropwise. The reaction is stirred 18 h, quenched with water, and extracted with ethyl acetate. The combined organic phases are extracted with 1 N HCl and saturated aqueous NaCl. The organic phase is dried over sodium sulfate, filtered, and concentrated under reduced pressure to give the title compound (>95% yield, 90% purity as determined by LCMS): MS (m/z): 443, 445 (M+1).

reactant | (S)-3-amino-3-(5-bromo-2,4-difluoro-phenyl)-butan-1-ol | 34 mmoles, 9.5 g, 1 equiv | N[C@](CCO)(C)C1=C(C=C(C(=C1)Br)F)F | C10H12BrF2NO
reactant | bis(trimethylsilyl)trifluoroacetamide | 34 mmol, 8.7 g, 1 equiv | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
reactant | benzoyl isothiocyanate | 34 mmoles, 5.5 g, 1 equiv | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-1-Benzoyl-3-[1-(5-bromo-2,4-difluoro-phenyl)-3-hydroxy-1-methyl-propyl]-thiourea | >95% yield | C(C1=CC=CC=C1)(=O)NC(=S)N[C@](CCO)(C)C1=C(C=C(C(=C1)Br)F)F | C18H17BrF2N2O2S
